US09126998B2
rac-tert-Butyl {1-[({6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridin-3-yl}-carbonyl)amino]-3-methylbutan-2-yl}carbamate
200 mg (0.57 mmol) of 6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid Example 16A, 191 mg (0.60 mmol) of HATU and 0.19 ml (1.70 mmol) of 4-methylmorpholine in DMF (3.6 ml) were stirred at RT for 20 min. 126 mg (0.62 mmol) of rac-tert-butyl (1-amino-3-methylbutan-2-yl)carbamate were then added and the reaction mixture was stirred at RT overnight. Water/TFA were then added and the mixture was purified by preparative RP-HPLC (acetonitrile/water gradient with addition of 0.1% TFA). The product fractions were concentrated and the residue was taken up in dichloromethane and washed twice with saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted twice with dichloromethane and the combined organic phases were dried over sodium sulphate, filtered off and concentrated. This gave 264 mg (87% of theory, purity 100%) of the target compound.

reactant | 6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.57 mmol, 200 mg | ClC=1C=C(C=2N(C1)C(=C(N2)C)C(=O)O)OCC2=C(C=CC=C2F)F | C16H11ClF2N2O3
reactant | HATU | 0.60 mmol, 191 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 1.70 mmol, 0.19 ml | CN1CCOCC1 | C5H11NO
reactant | rac-tert-butyl (1-amino-3-methylbutan-2-yl)carbamate | 0.62 mmol, 126 mg | NCC(C(C)C)NC(OC(C)(C)C)=O | C10H22N2O2
reactant | Water TFA | O.C(=O)(C(F)(F)F)O
solvent | DMF | 3.6 ml | CN(C)C=O | C3H7NO
product | rac-tert-Butyl {1-[({6-chloro-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridin-3-yl}-carbonyl)amino]-3-methylbutan-2-yl}carbamate | ClC=1C=C(C=2N(C1)C(=C(N2)C)C(=O)NCC(C(C)C)NC(OC(C)(C)C)=O)OCC2=C(C=CC=C2F)F | C26H31ClF2N4O4
